US03991063
To 250 ml. of liquid ammonia under a nitrogen atmosphere are added 7.5 g. (0.19 gram atom) of potassium in small portions and a few crystals of ferric nitrate. When all the potassium has been converted into the amide (i.e. when the blue color disappears), 11.1 g. (0.095 mole) of o-toluonitrile in 30 ml. of anhydrous tetrahydrofuran are added, upon which the solution immediately takes on a red color. 19.8 g. (0.19 mole) of 2-cyanopyridine in 100 ml. of anhydrous tetrahydrofuran are then added. The mixture is left standing overnight and then decomposed with water. The tetrahydrofuran is evaporated and the residue is extracted with chloroform. The extract is washed with water, dried with magnesium sulphate and the solvent is removed by evaporation. The residue is purified by sublimation. 5.2 g. of 1-amino-3-(2-pyridyl)isoquinoline are obtained. Yield 24.8%, m.p. 152°-153° C. The base is dissolved in diethyl ether and an etheral hydrogen chloride solution is added. The precipitate formed is filtered off and crystallised from ethanol (96%) to yield the monohydrochloride, m.p. 266° C., (with decomposition). 0.95 g. (4.30 mmol) of the base and 2.44 g. (17.2 mmol) of methyl iodide, dissolved in 20 ml of acetone are heated at 43° C under a nitrogen atmosphere for 4 days. The solvent is distilled off and the residue is crystallised from methanol. 1-Amino-3-(2-pyridyl)isoquinoline methyliodide is obtained. Melting point 206° C with decomposition.

reactant | ammonia | N | H3N
reactant | potassium | 0.19 gram | [K] | K
reactant | o-toluonitrile | 0.095 mole | C=1(C(=CC=CC1)C#N)C | C8H7N
reactant | 2-cyanopyridine | 0.19 mole | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-amino-3-(2-pyridyl)isoquinoline | Yield 24.8% | NC1=NC(=CC2=CC=CC=C12)C1=NC=CC=C1 | C14H11N3
